US09233098B2
2. Preparation of N-(5-methylpyridin-2-yl)-2-naphthamide
N-(2-naphthylformyl)-N-(5-methylpyridin-2-yl)-2-naphthamide (2.91 g, 6.99 mmol) was dissolved in ethanol (50 mL) and 85% hydrazine hydrate (5 mL), and stirred at room temperature for 8 hours. It was concentrated under reduce pressure, chromatographed on a silica gel column (petroleum ether:ethyl acetate=3:1) to obtain a white solid 1.8 g, at a yield of 98.1%.

reactant | N-(2-naphthylformyl)-N-(5-methylpyridin-2-yl)-2-naphthamide | 6.99 mmol, 2.91 g | C1=C(C=CC2=CC=CC=C12)C(=O)N(C(=O)C1=CC2=CC=CC=C2C=C1)C1=NC=C(C=C1)C | C28H20N2O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | hydrazine hydrate | 5 mL | O.NN
product | N-(5-methylpyridin-2-yl)-2-naphthamide | 1.8 g, yield of 98.1% | CC=1C=CC(=NC1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C17H14N2O
